US08466181B2
6-(4-(1-(2-Fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinamide
To a solution of 6-(4-(1-(2-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid (74 mg, 0.203 mmol) in DMF (3 mL) was added CDI (40 mg, 0.244 mmol) and the resulting mixture stirred at 60° C. for 1 h. After cooling to room temperature ammonium hydroxide (320 μL, 2.03 mmol) was added and reaction mixture was stirred for 30 min and then evaporated. Purification by chromatography (reverse phase HPLC) afforded the title compound (58 mg, 74%) as a white solid. MS: m/e=364.1 [M+H]+.

reactant | 6-(4-(1-(2-fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinic acid | 0.203 mmol, 74 mg | FC1=C(C=CC=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C(=O)O)C=C1)C | C18H13FN6O2
reactant | CDI | 0.244 mmol, 40 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | ammonium hydroxide | 2.03 mmol, 320 μL | [OH-].[NH4+]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 6-(4-(1-(2-Fluorophenyl)-4-methyl-1H-1,2,3-triazol-5-yl)-1H-imidazol-1-yl)nicotinamide | 58 mg, 74% | FC1=C(C=CC=C1)N1N=NC(=C1C=1N=CN(C1)C1=NC=C(C(=O)N)C=C1)C | C18H14FN7O
